US06313310B1
1-(4-Nitro-phenyl)-2-propyn-1-ol (4.89 mmol) (prepared by the addition of ethynylmagnesium chloride (Aldrich) to 4-nitrobenzaldehyde (Aldrich) according to method A above) was added to 10% H2O in methanol (150 mL) and to this mixture was added zinc dust (44.01 mmol) and ammonium chloride (10.67 mmol). The reaction was heated at reflux for 3 h, at which time the reaction was cooled and the solid was filtered off. The solids were washed extensively with ethyl acetate, and the ethyl acetate and methanol were evaporated in vacuo. The resulting precipitate was filtered off, dried and recrystallized from ethyl acetate/hexane to yield 1-(4-amino-phenyl)-2-propyn-1-ol.

reactant | 1-(4-Nitro-phenyl)-2-propyn-1-ol | 4.89 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C(C#C)O | C9H7NO3
reactant | ethynylmagnesium chloride | C(#C)[Mg]Cl
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ammonium chloride | 10.67 mmol | [Cl-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
catalyst | zinc | 44.01 mmol | [Zn] | Zn
solvent | H2O | O | H2O
product | 1-(4-amino-phenyl)-2-propyn-1-ol | NC1=CC=C(C=C1)C(C#C)O | C9H9NO
